US07834039B2
To a solution of N-(4-(3-(3-chloro-4-isopropoxyphenyl)-1,2,4-oxadiazol-5-yl)benzyl)-1-(2,2-dimethyl-1,3-dioxolan-4-yl)methanamine (108 mg, 0.236 mmol) in THF (4 mL) was added 1N aqueous HCl (0.778 mL, 0.778 mmol) The reaction was heated to 65° C. under nitrogen for 90 minutes. Heating was stopped and the reaction was neutralized by addition of 1N aqueous NaOH (0.778 mL, 0.778 mmol). THF was removed under reduced pressure and the remaining aqueous solution was basified (pH approx 9) by the addition of 0.1N NaOH, at which point white precipitate formed. Solid was collected by vacuum filtration, and washed with 0.1N NaOH (3×10 mL). Solid was dried in a vacuum oven overnight to give 3-(4-(3-(3-chloro-4-isopropoxyphenyl)-1,2,4-oxadiazol-5-yl)benzylamino)propane-1,2-diol (31.7 mg, 32%) as an off-white solid. LCMS (Table 1, Method c) Rt=1.90 min, m/z 418.47 (M+H)+; 1H NMR (400 MHz, methanol) δ ppm 7.22 (d, J=8.68 Hz, 1H), 7.60 (d, 2H), 8.01 (dd, 1H), 8.10 (d, 1H), 8.16 (d, 2H), 4.78 (sept, 1H), 2.76 (dd, 1H), 2.63 (dd, 1H), 3.52 (d, 2H), 3.90 (d, 2H), 3.78 (m, 1H), 1.40 (d, 6H).

reactant | N-(4-(3-(3-chloro-4-isopropoxyphenyl)-1,2,4-oxadiazol-5-yl)benzyl)-1-(2,2-dimethyl-1,3-dioxolan-4-yl)methanamine | 0.236 mmol, 108 mg | ClC=1C=C(C=CC1OC(C)C)C1=NOC(=N1)C1=CC=C(CNCC2OC(OC2)(C)C)C=C1 | C24H28ClN3O4
reactant | HCl | 0.778 mmol, 1N, 0.778 mL | Cl | ClH
reactant | NaOH | 0.778 mmol, 1N, 0.778 mL | [OH-].[Na+]
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 3-(4-(3-(3-chloro-4-isopropoxyphenyl)-1,2,4-oxadiazol-5-yl)benzylamino)propane-1,2-diol | 31.7 mg, 32% | ClC=1C=C(C=CC1OC(C)C)C1=NOC(=N1)C1=CC=C(CNCC(CO)O)C=C1 | C21H24ClN3O4
